US06787560B2
Sodium hydride (60% in paraffin, 14.4 g, 0.360 mol) was added in small portions to a mixture of the crude product (147 g) of diethyl 2-bromo-5-methoxybenzylphosphonate, N-tert-butoxycarbonyl-4-piperidone (65.1 g, 0.327 mol) and 1,2-dimethoxyethane (200 mL) at room temperature, and the resulting mixture was stirred as it was for 1.5 hours. Water (1200 mL) was added to the reaction mixture, followed by extraction with ether (500 mL×3). The combined organic layer was washed with water (200 mL) and a saturated aqueous sodium chloride solution (200 mL). The combined organic layer washed was dried over anhydrous magnesium sulfate and then concentrated to dryness, and the residue was washed with hexane to obtain 98.2 g (0.257 mol, 79%) of N-tert-butoxycarbonyl-4-(2-bromo-5-methoxybenzal)piperidine.

reactant | Sodium hydride | 0.360 mol, 14.4 g | [H-].[Na+]
reactant | diethyl 2-bromo-5-methoxybenzylphosphonate | BrC1=C(CP(OCC)(OCC)=O)C=C(C=C1)OC | C12H18BrO4P
reactant | N-tert-butoxycarbonyl-4-piperidone | 0.327 mol, 65.1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | 1,2-dimethoxyethane | 200 mL | COCCOC | C4H10O2
solvent | Water | 1200 mL | O | H2O
product | N-tert-butoxycarbonyl-4-(2-bromo-5-methoxybenzal)piperidine | 0.257 mol, 98.2 g, 79% | C(C)(C)(C)OC(=O)N1CCC(CC1)=CC1=C(C=CC(=C1)OC)Br | C18H24BrNO3
